US04764521
B. Preparation of 6-[2-(2-hydroxyethyl)-3,4dichlorophenoxy]hexanoic acid
Following the procedure of Example 1C, two millimoles each of 2-(2-hydroxyethyl)-3,4-dichlorophenol and 6-bromohexanoic acid were reacted to provide 55 mg. of the desired title product which crystallized from methylene chloride.

reactant | 2-(2-hydroxyethyl)-3,4-dichlorophenol | two millimoles | OCCC1=C(C=CC(=C1Cl)Cl)O | C8H8Cl2O2
reactant | 6-bromohexanoic acid | BrCCCCCC(=O)O | C6H11BrO2
product | 6-[2-(2-hydroxyethyl)-3,4dichlorophenoxy]hexanoic acid | OCCC1=C(OCCCCCC(=O)O)C=CC(=C1Cl)Cl | C14H18Cl2O4
